US05491132
To a solution of benzyl (2S)-2-[N-[2-(N-t-butoxycarbonyl-N-methylamino)ethyl]-N-methylaminocarbonyl]oxy-3-phenylpropionate (5.40 g) in ethyl acetate (50 ml) which was cooled at 0° C. was added 4N hydrogen chloride solution in ethyl acetate (50 ml). The solution was stirred at 0° C. for 1 hour and the solvent was evaporated in vacuo to give benzyl (2S)-2-[N-[2-(N-methylamino)ethyl]-N-methylaminocarbonyl]oxy-3-phenylpropionate hydrochloride (4.70 g) as a solid. Rf: 0.23 (chloroform:methanol, 10:1, V/V)

reactant | benzyl (2S)-2-[N-[2-(N-t-butoxycarbonyl-N-methylamino)ethyl]-N-methylaminocarbonyl]oxy-3-phenylpropionate | 5.40 g | C(C)(C)(C)OC(=O)N(C)CCN(C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)C | C26H34N2O6
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | benzyl (2S)-2-[N-[2-(N-methylamino)ethyl]-N-methylaminocarbonyl]oxy-3-phenylpropionate hydrochloride | 4.70 g | Cl.CNCCN(C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)C | InChI=1S/C21H26N2O4.ClH/c1-22-13-14-23(2)21(25)27-19(15-17-9-5-3-6-10-17)20(24)26-16-18-11-7-4-8-12-18;/h3-12,19,22H,13-16H2,1-2H3;1H/t19-;/m0./s1
